US04564386
2,4-Dimethyl-3-(trifluoromethanesulfonamido)benzenesulfonyl chloride (1.4 g) was added to tetrahydrofuran (20 ml) containing dimethylamine (0.6 g), and the resultant mixture was allowed to stand overnight at room temperature. The reaction mixture was concentrated, admixed with 5% hydrochloric acid and extracted with chloroform. The extract was washed with 5% hydrochloric acid and water in order, dried over anhydrous magnesium sulfate and concentrated to give an oily substance, which was purified by column chromatography with silica gel (150 ml) to give 1.0 g of N,N-dimethyl-2,4-dimethyl-3-(trifluoromethanesulfonamido)benzenesulfonamide. M.P., 70.5°-72° C.

reactant | 2,4-Dimethyl-3-(trifluoromethanesulfonamido)benzenesulfonyl chloride | 1.4 g | CC1=C(C=CC(=C1NS(=O)(=O)C(F)(F)F)C)S(=O)(=O)Cl | C9H9ClF3NO4S2
reactant | dimethylamine | 0.6 g | CNC | C2H7N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N,N-dimethyl-2,4-dimethyl-3-(trifluoromethanesulfonamido)benzenesulfonamide | 1.0 g | CN(S(=O)(=O)C1=C(C(=C(C=C1)C)NS(=O)(=O)C(F)(F)F)C)C | C11H15F3N2O4S2
